US07217710B2
To a solution of 2-(3-chloro-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-ylamino)-ethanol (244 mg, 1.07 mmol) in dioxane (21 mL) and H2O (7 mL) was added anhydrous potassium carbonate (443 mg, 3.21 mmol, 3 eq), followed by 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (350 mg, 1.6 mmol, 1.5 eq). The reaction mixture was degassed and tetrakis(triphenylphosphine)palladium (61 mg, 0.053 mmol, 0.05 eq) was added. The system was then heated under reflux for 24 hours and cooled to room temperature. The layers were separated. The organic solution was treated with ethyl acetate (50 mL) and water (10 mL). The resulting organic layer was then separated, washed with brine, dried over MgSO4, filtered and evaporated. The product was purified by column chromatography (100% ethyl acetate) to give 130 mg (42% yield) of pure 2-[3-(4-amino-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-ylamino)-ethanol; 1H-NMR (DMSO): δ 3.44 (m, 2H), 3.59 (m, 2H), 3.79 (s, 3H), 4.70 (br s, 1H), 5.32 (br s, 2H), 6.65 (d, 2H, J=8.5 Hz), 7.23 (br s, 1 H) 7.64 (d, 2H, J=8.5 Hz), 9.05 (br, 1H); LC/MS (m/e)=285.4 (MH+), Rt=1.54 min.

reactant | 2-(3-chloro-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-ylamino)-ethanol | 1.07 mmol, 244 mg | ClC1=NN(C2=NC(=NC=C21)NCCO)C | C8H10ClN5O
reactant | potassium carbonate | 3.21 mmol, 443 mg, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.6 mmol, 350 mg, 1.5 eq | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
solvent | dioxane | 21 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 7 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.053 mmol, 61 mg, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[3-(4-amino-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-ylamino)-ethanol | 130 mg, 42% yield | NC1=CC=C(C=C1)C1=NN(C2=NC(=NC=C21)NCCO)C | C14H16N6O
